US09260397B2
1-(3,3-dimethyl-2-oxobutyl)-3-mesityl imidazolium chloride
According to the general synthesis procedure, 5.4 mmol (1.00 g) 1-mesitylimidazole and 6.4 mmol (0.870 g, 0.85 ml) 1-chloro-3,3-dimethyl-2-butanone are dissolved in 5 ml THF and heated for 45 min to 90° C.

reactant | 1-mesitylimidazole | 5.4 mmol, 1.00 g | C1(=C(C(=CC(=C1)C)C)N1C=NC=C1)C | C12H14N2
reactant | 1-chloro-3,3-dimethyl-2-butanone | 6.4 mmol, 0.85 ml, 0.870 g | ClCC(C(C)(C)C)=O | C6H11ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(3,3-dimethyl-2-oxobutyl)-3-mesityl imidazolium chloride | [Cl-].CC(C(C[N+]1=CN(C=C1)C1=C(C=C(C=C1C)C)C)=O)(C)C | InChI=1S/C18H25N2O.ClH/c1-13-9-14(2)17(15(3)10-13)20-8-7-19(12-20)11-16(21)18(4,5)6;/h7-10,12H,11H2,1-6H3;1H/q+1;/p-1
